US08202885B2
To a solution of 287 mg of rac-isobutyric acid (1R*,2R*,4R*)-2-[2-({3-[7-(tert.-butyl-dimethyl-silanyloxy)-1H-benzoimidazol-2-yl]-propyl}-methyl-amino)-ethyl]-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester in 6 mL THF were added 73 mg of NEt3 trihydrofluoride. After stirring for 45 min the reaction was quenched by addition of sat. aq. NaHCO3. The mixture was extracted with EtOAc and the organic phase was dried over MgSO4. Concentration in vacuo and purification by CC with EtOAc-MeOH (2:1) yielded 131 mg of rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(7-hydroxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester as yellow oil.

reactant | rac-isobutyric acid (1R*,2R*,4R*)-2-[2-({3-[7-(tert.-butyl-dimethyl-silanyloxy)-1H-benzoimidazol-2-yl]-propyl}-methyl-amino)-ethyl]-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 287 mg | C(C)(C)(C)[Si](OC1=CC=CC2=C1NC(=N2)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C)(C)C | C37H53N3O3Si
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(7-hydroxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 131 mg | OC1=CC=CC2=C1NC(=N2)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C | C31H39N3O3
